US07368578B2
A mixture of 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde (0.60 g), p-toluenesulfonylmethylisocyanide (0.25 g), potassium carbonate (0.17 g) and methanol (30 mL) was heated under reflux for 3 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 2-(2-furyl)-4-{[2-methoxy-4-({[4-(1,3-oxazol-5-yl)-1-phenyl-1H-pyrazol-3-yl]oxy}methyl)phenoxy]methyl}-5-methyl-1,3-oxazole as colorless crystals (0.34 g, yield 54%) from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 153-154° C.

reactant | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.60 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)OC)C | C27H23N3O6
reactant | p-toluenesulfonylmethylisocyanide | 0.25 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 30 mL | CO | CH4O
solvent | Water | O | H2O
product | 2-(2-furyl)-4-{[2-methoxy-4-({[4-(1,3-oxazol-5-yl)-1-phenyl-1H-pyrazol-3-yl]oxy}methyl)phenoxy]methyl}-5-methyl-1,3-oxazole | 0.34 g, yield 54% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)COC1=NN(C=C1C1=CN=CO1)C1=CC=CC=C1)OC)C | C29H24N4O6
